US08242116B2
4-(Aminocarbonothioyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl tert-butyl carbonate
NEt3 (0.72 mL, 5.1 mmol) was added to 3,4-dihydro-2H-benzo[1,4]oxazin-6-ol hydrobromide (0.4 g, 1.7 mmol) in THF (25 mL). The reaction mixture was stirred for 5 minutes before addition of di-tert-butyl dicarbonate (0.75 g, 3.4 mmol) and DMAP (0.02 g, cat), and then stirred for 3 h before being concentrated in vacuo and the residue partitioned between DCM (100 mL) and water (100 mL). The organic fraction was washed with water (100 mL) and brine (100 mL), dried (MgSO4), filtered and concentrated in vacuo to give a brown oil which was dissolved in THF (15 mL). 1,1′-Thiocarbonyldiimidazole (0.178 g, 3.4 mmol) was added, and the mixture heated to 120° C. under microwave irradiation for 15 minutes. After cooling to r.t., NH3 (15 mL, 7N solution in MeOH, 105 mmol) was added, and the mixture stirred at r.t. for 3 h. The reaction mixture was then concentrated in vacuo and then partitioned between DCM (100 mL) and aqueous 1N HCl (100 mL). The organic fraction was washed with water (100 mL) and brine (100 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was triturated with Et2O/hepane to give the title compound (0.160 g, 30%) as a beige solid. δH (DMSO-d6) 8.13 (2H, br. s), 7.30 (1H, d, J 1.9 Hz), 6.94-6.90 (2H, m), 4.32-4.17 (4H, m), 1.48 (9H, s).

reactant | NEt3 | 5.1 mmol, 0.72 mL | CCN(CC)CC | C6H15N
reactant | 3,4-dihydro-2H-benzo[1,4]oxazin-6-ol hydrobromide | 1.7 mmol, 0.4 g | Br.O1CCNC2=C1C=CC(=C2)O
reactant | di-tert-butyl dicarbonate | 3.4 mmol, 0.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,1′-Thiocarbonyldiimidazole | 3.4 mmol, 0.178 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | NH3 | 105 mmol, 7N, 15 mL | N | H3N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.02 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(Aminocarbonothioyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl tert-butyl carbonate | 0.160 g, 30% | C(OC=1C=CC2=C(N(CCO2)C(=S)N)C1)(OC(C)(C)C)=O | C14H18N2O4S
